US04146512
Dimethylol octylphenol was prepared by the base (lithium hydroxide 93% and TEA 4%) catalyzed condensation of octylphenol (1 mole) with 50% aqueous formaldehyde (2 moles). The dimethyloctylphenol product was dissolved in toluene/benzene at 65% solids. Morpholine was added in one charge, and the reaction mass was refluxed to completion and vacumn dehydrated to the desired softening point and methylol content of less than 1%. This value for methylol content includes methylol groups and benzylic ether bridges.

reactant | lithium hydroxide | [OH-].[Li+]
reactant | octylphenol | 1 mole | C(CCCCCCC)C1=C(C=CC=C1)O | C14H22O
reactant | formaldehyde | 2 moles | C=O | CH2O
reactant | dimethyloctylphenol | CC1=C(C(=C(C=C1)O)CCCCCCCC)C | C16H26O
reactant | Morpholine | N1CCOCC1 | C4H9NO
solvent | toluene benzene | C1(=CC=CC=C1)C.C1=CC=CC=C1
product | Dimethylol octylphenol | C(O)C(CCCCCCCC1=C(C=CC=C1)O)CO | C16H26O3
